US04212804
To a suspension of 1.3 g. (0.021 moles) of pulverized potassium cyanide in 75 ml. of dimethylformamide (distilled over calcium hydride) at 100° C. is added dropwise, over a period of 15 minutes, a solution containing 3.6 g (0.02 moles) of 1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione in 35 ml. of dimethylformamide (distilled over calcium hydride), after which time the reaction mixture is stirred at 100° C. for an additional 5 minutes. The resultant mixture is then poured into cold water and extracted into three 250 ml. portions of ether. After drying the organic phase over sodium sulfate, the excess solvent is removed and the resultant precipitate is filtered, washed with ether and dried in vacuo to yield 2-imino-1-methyl-3-indolinone, m.p. 99°-102° C. (Yield: 49%).

reactant | potassium cyanide | 0.021 moles | [C-]#N.[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 1-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | 0.02 moles, 3.6 g | CN1C(OC(C2=C1C=CC=C2)=O)=O | C9H7NO3
solvent | water | O | H2O
product | 2-imino-1-methyl-3-indolinone | Yield: 49% | N=C1N(C2=CC=CC=C2C1=O)C | C9H8N2O
